* C:\Users\pbonthu\OneDrive - Olin College of Engineering\Documents\LTspice\eclectronicsmp12.asc
* Generated by LTspice 26.0.1 for Windows.
R1 N001 N002 {mc(100k,0.01)}
R2 Vout N001 {mc(100k,0.01)}
R3 Vout CRNet {mc(361.4k,0.01)}
C1 CRNet 0 {mc(1u,0.05)}
X§U2 N001 CRNet VDD 0 Vout level2 Avol=1Meg GBW=1.5Meg Slew=1.3Meg ilimit=15m rail=0 Vos=0 phimargin=50 en=0 enk=0 in=0 ink=0 Rin=10E12 ;§pnba In+)In-)V+)V-)OUT
D1 P001 0 D
RLED Vout P001 269.8
VDD VDD 0 3.3V
R5 N004 VDD {mc(100k,0.01)}
R6 0 N004 {mc(100k,0.01)}
X§U1 N004 N003 N004 0 N002 level2 Avol=1Meg GBW=1.5Meg Slew=1.3Meg ilimit=15m rail=0 Vos=0 phimargin=50 en=0 enk=0 in=0 ink=0 Rin=10E12 ;§pnba In+)In-)V+)V-)OUT
.model D D
.lib C:\Users\pbonthu\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 5 0
.meas TRAN Tperiod TRIG V(vout)=1.65 RISE=2 TARG V(vout)=1.65 RISE=3
.ic V(CRNet)=0
.step param run 1 200 1
* Library below included based on ModelFile attribute of instance X§U2, X§U1 (C:\Users\pbonthu\AppData\Local\LTspice\lib\sym\cktsym\opamprails.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
